US07655664B2
2-Methoxy-4-methylnicotinaldehyde
To a stirred solution of 5-bromo-2-methoxy-4-methylpyridine (2.6 g, 13 mmol) in dry THF (40 mL) under argon at −70° C. was added 1.6M n-BuLi in hexanes (8.1 mL, 14 mmol) over ten minutes. The mixture was stirred at −70° C. for 30 minutes and then anhydrous DMF (1.2 mL, 15 mmol) was added portion-wise at a rate that kept the temperature at −70° C. When the addition was complete, the mixture was stirred at −70° C. for 30 minutes and then at RT overnight. The reaction was quenched with 1M hydrochloric acid (40 mL) and then extracted three times with TBME. The combined organic phases were washed with brine, dried, filtered and concentrated. Column chromatography with TBME-light petroleum ether (1:1) as eluent gave 1.8 g (91%) of the title compound as pale yellow solid.

reactant | 5-bromo-2-methoxy-4-methylpyridine | 13 mmol, 2.6 g | BrC=1C(=CC(=NC1)OC)C | C7H8BrNO
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | DMF | 15 mmol, 1.2 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Methoxy-4-methylnicotinaldehyde | 1.8 g, 91% | COC1=C(C=O)C(=CC=N1)C | C8H9NO2
